US08232390B2
Step 3: methyl 2-{3-(acetylamino)-2-[(chloroacetyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate
N-methyl morpholine (1 eq) and chloroacetylchloride (1 eq) were added to a stirred solution of methyl 2-[3-(acetylamino)-2-aminophenyl]-3-cyclohexyl-1H-indole-6-carboxylate in CH2Cl2 (0.03 M) under N2. After stirring at RT for 1 h, further N-methyl morpholine (1 eq) and chloroacetylchloride (1 eq) were introduced. The reaction was stirred for another hour before diluting with CH2Cl2 and washing with 1N HCl (aq), water and brine. The organics were then dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a brown solid that was taken on in the subsequent step without further purification (91%). MS (ES+) m/z 482 (M+H)+, 484 (M+H)+.

reactant | N-methyl morpholine | 1 eq | CN1CCOCC1 | C5H11NO
reactant | chloroacetylchloride | 1 eq | ClCC(=O)Cl | C2H2Cl2O
reactant | methyl 2-[3-(acetylamino)-2-aminophenyl]-3-cyclohexyl-1H-indole-6-carboxylate | C(C)(=O)NC=1C(=C(C=CC1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)N | C24H27N3O3
reactant | N-methyl morpholine | 1 eq | CN1CCOCC1 | C5H11NO
reactant | chloroacetylchloride | 1 eq | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 0.03 M | C(Cl)Cl | CH2Cl2
product | methyl 2-{3-(acetylamino)-2-[(chloroacetyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate | C(C)(=O)NC=1C(=C(C=CC1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)NC(CCl)=O | C26H28ClN3O4
